US07557131B2
Preparation 111: 2-(Benzyloxy)-6-fluoropyridine
Benzylalcohol (1.88 g, 17.38 mmol) was added to a suspension of sodium hydride (60% dispersion in mineral oil, 458 mg, 19.11 mmol) in tetrahydrofuran (15 mL) and the mixture was heated to 50° C. for 45 minutes. The reaction mixture was then cooled to room temperature, a solution of 2,6-difluoropyridine (2 g, 17.38 mmol) in tetrahydrofuran (4 mL) was added dropwise and the mixture was stirred at room temperature for 45 minutes. The reaction mixture was then diluted with ethyl acetate, concentrated in vacuo and the residue was partitioned between ethyl acetate (50 mL) and water (20 mL). The organic layer was separated, washed with brine (20 mL), dried over magnesium sulfate and concentrated in vacuo. The residue was then concentrated in vacuo from dichloromethane to afford the title compound as a clear oil in 98% yield, 3.48 g. LRMS APCI m/z 204 [M+H]+

reactant | Benzylalcohol | 17.38 mmol, 1.88 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 19.11 mmol, 458 mg | [H-].[Na+]
reactant | 2,6-difluoropyridine | 17.38 mmol, 2 g | FC1=NC(=CC=C1)F | C5H3F2N
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(Benzyloxy)-6-fluoropyridine | 98% yield | C(C1=CC=CC=C1)OC1=NC(=CC=C1)F | C12H10FNO
